US06063782
1.50 g (0.030 mole) of hydrazine monohydrate were dropwised added slowly to a solution of 4.00 g (0.022 mole) of methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate in 80 ml of acetic acid at room temperature and the resulting mixture was stirred at 110° C. for 2 hours. After completion of the reaction, the reaction mixture was poured into ice-water. The resulting precipitates were collected by filtration and washed well with water. The precipitates were dissolved in dichloromethane and the solution was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to give 3.40 g of 2,3-dimethyl-6,7-dihydropyrrolo[2,3-d]pyridazin-7-one as a grayish-white powder.

reactant | hydrazine monohydrate | 0.030 mole, 1.50 g | O.NN
reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | 0.022 mole, 4.00 g | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 2,3-dimethyl-6,7-dihydropyrrolo[2,3-d]pyridazin-7-one | 3.40 g | CC1=C(C=2C(C(NNC2)=O)=N1)C | C8H9N3O
